US08030334B2
A flask is charged with diethyl-sulfamic acid 5-(6-chloro-1H-indol-2-yl)-pyridin-3-yl ester (0.175 g, 0.560 mmol) and DMF (5 mL). Dimethyl carbonate (0.116 mL, 1.38 mmol) and potassium carbonate (0.035 g, 0.253 mmol) are added and the reaction is stirred at 150° C. overnight. The reaction mixture is cooled to room temperature, diluted with ethyl acetate and washed with water. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by flash chromatography (heptane-ethyl acetate, 3:1) to afford diethyl-sulfamic acid 5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridin-3-yl ester as a yellow solid. MS (ESI) m/z 394.04 (M+H)+

reactant | diethyl-sulfamic acid 5-(6-chloro-1H-indol-2-yl)-pyridin-3-yl ester | 0.560 mmol, 0.175 g | ClC1=CC=C2C=C(NC2=C1)C=1C=C(C=NC1)OS(N(CC)CC)(=O)=O | C17H18ClN3O3S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | Dimethyl carbonate | 1.38 mmol, 0.116 mL | C(OC)(OC)=O | C3H6O3
reactant | potassium carbonate | 0.253 mmol, 0.035 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl-sulfamic acid 5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridin-3-yl ester | ClC1=CC=C2C=C(N(C2=C1)C)C=1C=C(C=NC1)OS(N(CC)CC)(=O)=O | C18H20ClN3O3S
